US08293746B2
Step 18.3: 1-[2-(2-Fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine
1-(2-Chloro-ethyl)-pyrrolidine hydrochloride (1.2 g, 7.0 mmol, 1.1 equiv) is added to a suspension of 2-fluoro-4-nitrophenol (1 g, 6.4 mmol) and cesium carbonate (5.2 g, 15.9 mmol, 2.5 equiv) in DMF (20 mL). The resulting mixture is heated to 80° C. and stirred for 18 h. Additional 1-(2-chloro-ethyl)-pyrrolidine hydrochloride (1 g) is added and the mixture is stirred for 3 h at 80° C. The reaction mixture is cooled to RT, diluted with EtOAc and H2O. The layers are separated and the aqueous layer is extracted with EtOAc. The organic phase is washed with H2O, dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (DCM/MeOH+1% NH3aq, 95:5) to provide the title compound as a yellow solid. ESI-MS: 255.1 [MH]+; tR=2.57 min (system 1); TLC: Rf=0.55 (DCM/MeOH+1% NH3aq, 95:5).

reactant | 1-(2-Chloro-ethyl)-pyrrolidine hydrochloride | 7.0 mmol, 1.2 g, 1.1 equiv | Cl.ClCCN1CCCC1
reactant | 2-fluoro-4-nitrophenol | 6.4 mmol, 1 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | cesium carbonate | 15.9 mmol, 5.2 g, 2.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine hydrochloride | 1 g | Cl.ClCCN1CCCC1
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 1-[2-(2-Fluoro-4-nitro-phenoxy)-ethyl]-pyrrolidine | FC1=C(OCCN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C12H15FN2O3
